US07935832B2
A solution of ethyl 2-[2-(ethyloxy)-2-oxoethyl]benzoate (4.15 g, 17.5 mmol) in chloroform (70 ml) was treated with bromine (1.3 ml, 25 mmol) and stirred at reflux, whilst irradiating with a 120 W tungsten bulb, for 5 hrs. The mixture was cooled to 20° C., evaporated and purified by automated flash silica-gel column chromatography (using a Biotage SP4), eluting with 0-10% gradient of ethyl acetate in hexane (10 column volumes), to give ethyl 2-[1-bromo-2-(ethyloxy)-2-oxoethyl]benzoate (2.77 g) as a pale yellow oil.

reactant | ethyl 2-[2-(ethyloxy)-2-oxoethyl]benzoate | 17.5 mmol, 4.15 g | C(C)OC(CC1=C(C(=O)OCC)C=CC=C1)=O | C13H16O4
reactant | bromine | 25 mmol, 1.3 ml | BrBr | Br2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | tungsten | [W] | W
product | ethyl 2-[1-bromo-2-(ethyloxy)-2-oxoethyl]benzoate | 2.77 g | BrC(C(=O)OCC)C1=C(C(=O)OCC)C=CC=C1 | C13H15BrO4
